US07737149B2
N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-5-(3-methylaminopyrrolidin-1-yl)pyrazine-2-carboxamide
Hydrogen chloride (4M in dioxane, 0.57 mL, 2.26 mmol) was added to tert-butyl N-[1-[5-[[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]carbamoyl]pyrazin-2-yl]pyrrolidin-3-yl]-N-methylcarbamate (312 mg, 0.57 mmol) in methanol (2.80 mL) at 25° C. The resulting solution was stirred at room temperature for 48 h. The reaction was incomplete and further hydrogen chloride (4M in dioxane, 0.28 mL, 1.12 mmol) was added and the solution was stirred at room temperature for a further 16 h. The reaction mixture was diluted with MeOH (5 ml) and the crude product was purified by ion exchange chromatography, using a SCX column. The desired product was eluted from the column using 7M NH3/MeOH and fractions were evaporated to dryness to afford impure product. The crude product was purified by preparative HPLC, using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford the title compound (101 mg, 39%) as a white solid.

reactant | Hydrogen chloride | 2.26 mmol, 4M, 0.57 mL | Cl | ClH
reactant | tert-butyl N-[1-[5-[[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]carbamoyl]pyrazin-2-yl]pyrrolidin-3-yl]-N-methylcarbamate | 0.57 mmol, 312 mg | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)NC(=O)C=1N=CC(=NC1)N1CC(CC1)N(C(OC(C)(C)C)=O)C | C28H37N7O5
reactant | hydrogen chloride | 1.12 mmol, 4M, 0.28 mL | Cl | ClH
solvent | methanol | 2.80 mL | CO | CH4O
solvent | MeOH | 5 ml | CO | CH4O
product | N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-5-(3-methylaminopyrrolidin-1-yl)pyrazine-2-carboxamide | 101 mg, 39% | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)NC(=O)C1=NC=C(N=C1)N1CC(CC1)NC | C23H29N7O3
